US04496568
Preparation of 4-hydroxy-2-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine: (VII); R1 =CH3 ; R2 =H
A mixture of 5-methyl-thiophene-2-carboxaldehyde (30 g; 0.237 mole) and aminoacetaldehyde dimethylacetal (27.4 g; 0.261 mole) in benzene (250 ml) is refluxed for 2 hours in a flask provided with a Dean-Stark water separator with overhead condenser. After evaporating to dryness, the residue is dissolved in ethanol (250 ml). Sodium borohydride (13.5 g; 0.355 mole) is added portionwise, and the resulting material is left aside overnight at room temperature. Excess sodium borohydride is destroyed by addition of acetone and the mixture is evaporated to dryness. The residue is taken up into water and extracted with methylene chloride. The organic extracts are dried over sodium sulfate and evaporated to dryness. The resulting residual oil is distilled under reduced pressure; b.p.2 =127° C.; Yield: 90% The resulting N-(5-methyl-2-thienyl)methyl aminoacetaldehyde dimethylacetal is heated at 60° C. for 1 hour in 6N hydrochloric acid (250 ml). After evaporating to dryness, the residue is triturated with acetone. The off-white crystals of the desired hydrochloride are recrystallized from acetonitrile; M.p.=120° C. Overall yield: 61%.

reactant | 5-methyl-thiophene-2-carboxaldehyde | 0.237 mole, 30 g | CC1=CC=C(S1)C=O | C6H6OS
reactant | aminoacetaldehyde dimethylacetal | 0.261 mole, 27.4 g | COC(CN)OC | C4H11NO2
reactant | water | O | H2O
reactant | Sodium borohydride | 0.355 mole, 13.5 g | [BH4-].[Na+]
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | 4-hydroxy-2-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine | Yield: 90% | OC1C2=C(CNC1)SC(=C2)C | C8H11NOS
